US09085540B2
A mixture of tert-butyl (3R)-3-[(5-carbamoyl-3-chloro-6-{[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-3-methylphenyl]amino}pyrazin-2-yl)amino]pyrrolidine-1-carboxylate (850 mg) and 3 M hydrochloric acid (9.6 mL) was stirred at 80° C. for 3 hours. The reactant was left to be cooled, and then a saturated aqueous sodium hydrogen carbonate solution and a 10% aqueous potassium carbonate solution were added thereto, followed by stirring at room temperature for 30 minutes. The precipitated solid was collected by filtration, washed with water, and then dried under reduced pressure to obtain 6-chloro-3-{[3-methyl-4-(4-oxopiperidin-1-yl)phenyl]amino}-5-[(3R)-pyrrolidin-3-ylamino]pyrazine-2-carboxamide (495 mg) as a pale yellow solid.

reactant | tert-butyl (3R)-3-[(5-carbamoyl-3-chloro-6-{[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-3-methylphenyl]amino}pyrazin-2-yl)amino]pyrrolidine-1-carboxylate | 850 mg | C(N)(=O)C=1N=C(C(=NC1NC1=CC(=C(C=C1)N1CCC2(OCCO2)CC1)C)N[C@H]1CN(CC1)C(=O)OC(C)(C)C)Cl | C28H38ClN7O5
reactant | hydrochloric acid | 3 M, 9.6 mL | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 6-chloro-3-{[3-methyl-4-(4-oxopiperidin-1-yl)phenyl]amino}-5-[(3R)-pyrrolidin-3-ylamino]pyrazine-2-carboxamide | 495 mg | ClC1=C(N=C(C(=N1)C(=O)N)NC1=CC(=C(C=C1)N1CCC(CC1)=O)C)N[C@H]1CNCC1 | C21H26ClN7O2
